US07166607B2
i) 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole-1-acetic acid, ethyl ester
A stirred solution of 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole (300 mg) in dry N,N-dimethylformamide (15 ml) was treated with sodium hydride (42 mg of a 60% dispersion in mineral oil). After 10 minutes the reaction was treated with ethyl bromoacetate (116 μl) and stirring continued for 24 hours. The reaction was poured into distilled water (200 ml) and extracted with diethyl ether (3×100 ml). The extracts were dried (MgSO4), evaporated in vacuo and the residue purified by flash column chromatography eluting with 10% ethyl acetate in iso-hexane. The subtitle compound was obtained as a yellow solid (yield 130 mg).

reactant | 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole | 300 mg | ClC1=CC=C(C=C1)SC1=C(NC2=CC=C(C=C12)C)C | C16H14ClNS
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromoacetate | 116 μl | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole-1-acetic acid, ethyl ester | ClC1=CC=C(C=C1)SC1=C(N(C2=CC=C(C=C12)C)CC(=O)OCC)C | C20H20ClNO2S
